US08703805B2
To a suspension of 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-carboxylic acid (0.52 g, 1 mmol) in DCM (6 mL) was added carbonyldimidazole (2.43 mg, 1.5 mmol) and the mixture was stirred for 2 h at 20° C. Morpholine (0.175 mL, 2 mmol) was added and the mixture was stirred overnight at 20° C. Evaporation of solvent gave a crude, which was purified by column chromatography on silica gel eluting with EtOAc-hexane (1:4 to 4:1) to afford (4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-yl)(morpholino)methanone (0.52 g). 1H-NMR (CDCl3): δ 7.97 (m, 2H), 7.77 (d, 1H), 7.64 (m, 1H), 7.58 (m, 1H), 7.46-7.24 (m, 5H), 6.89 (s, 1H), 3.55 (m, 3H), 3.33 (m, 2H), 3.08 (s, 3H), 2.87 (m, 2H), 2.69 (m, 1H). MS(ES): 590 [M+H]+.

reactant | 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-carboxylic acid | 1 mmol, 0.52 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(C(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)O)C(F)(F)F | C24H16ClF3N2O4S
reactant | carbonyldimidazole | 1.5 mmol, 2.43 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Morpholine | 2 mmol, 0.175 mL | N1CCOCC1 | C4H9NO
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-yl)(morpholino)methanone | 0.52 g | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC(=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)N1CCOCC1)C(F)(F)F | C28H23ClF3N3O4S
